US08080571B2
(a) 1-(3-Bromophenyl)-2-imidazol-1-ylethanone
To a solution of 2-bromo-1-(3-bromophenyl)ethanone (120 mg, 0.432 mmol) in dioxane (2 mL) was added imidazole (58.8 mg, 0.864 mmol) and the reaction mixture was stirred for 1 h at 80° C. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography using MeOH:CH2Cl2 (6:94) as eluent to give the sub-title compound in 68% yield (77.9 mg, 0.293 mmol).

reactant | 2-bromo-1-(3-bromophenyl)ethanone | 0.432 mmol, 120 mg | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
reactant | imidazole | 0.864 mmol, 58.8 mg | N1C=NC=C1 | C3H4N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(3-Bromophenyl)-2-imidazol-1-ylethanone | 68% yield | BrC=1C=C(C=CC1)C(CN1C=NC=C1)=O | C11H9BrN2O
